* C:\Users\Lukas\Documents\Electronics_Projects\RP2040_AS3394\spice files\VCO.asc
XU1 N006 N004 6.5V -6.5V N002 LM324/NS
V1 6.5V 0 6.5V
V2 -6.5V 0 -6.5V
C1 N002 N004 10n
R2 N002 N001 11k
R3 N004 N001 6.8k
C2 N001 0 33n
R1 in N001 6.8k
V3 in 0 PULSE(0 3.3 0 0.0000001 0.0000001 {duty*0.000032768} 0.000032768 150) AC 1
XU2 0 N005 6.5V -6.5V out LM324/NS
C3 out N005 10n
R4 out N003 5.1k
R5 N005 N003 2.7k
C4 N003 0 180n
R6 N002 N003 3.3k
R7 N006 6.5V 3k
R8 0 N006 560
V4 NC_01 0 1.0198854
.tran .01
.param duty = 0.5
.lib ns_models.lib
.backanno
.end
